Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Elevated BP's in office
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ s/p rLTCS on ___ who presents to GYN triage
after being sent from the office with BP's of 170/110.  Of note,
patient reports a HA for the past 3 days, which has ranged from
mild to moderate. She denies any changes in her vision or RUQ
pain. She was normotensive throughout her pregnancy and has 
never
had a history of elevated BP's.
 
Past Medical History:
OB Hx:
- G1 pLCTS for cephalopelvic disproportion
- G2 rLCTS on ___ c/b incision cellulitis -> on Keflex

GYN Hx: Denies STI's or abnormal Paps
Meds: Keflex, ibuprofen
Allergy: NKDA
PMH: None
PSH: C-section x 2
 
Social History:
___
Family History:
noncontributory
 
Physical Exam:
admission PE
VS: 98.2 174/102 -> 180/104 50 20
No acute distress
RRR no m/r/g
CTAB
ABD S/ND/NT, incision was well appearing with no evidence of
induration or cellulitis
EXT 2+ b/l UE and ___ reflexes
 
Pertinent Results:
___ 07:07PM URINE  HOURS-RANDOM
___ 07:07PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG mthdone-NEG
___ 03:40PM   CREAT-0.8
___ 03:40PM   estGFR-Using this
___ 03:40PM   ALT(SGPT)-26
___ 03:40PM   URIC ACID-6.4*
___ 03:40PM URINE  HOURS-RANDOM CREAT-42 TOT PROT-12 
PROT/CREA-0.3*
___ 03:40PM   WBC-5.1 RBC-4.27 HGB-14.3 HCT-41.1# MCV-96 
MCH-33.6* MCHC-34.9 RDW-13.0
___ 03:40PM   PLT COUNT-330
___ 03:40PM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 03:40PM URINE  BLOOD-MOD NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.0 
LEUK-SM 
___ 03:40PM URINE  RBC-3* WBC-5 BACTERIA-NONE YEAST-NONE 
EPI-<1 TRANS EPI-<1
___ 03:40PM URINE  MUCOUS-RARE
 
Brief Hospital Course:
___ G2P2 PPD#14 from a repeat c-section who returns with
elevated BP's postpartum. BP on presentation to gyn triage was 
170-180 systolic. She required a total 500mg PO labetalol and 
5mg IV  in gyn triage to maintain a bp in the mild range. Her 
headache resolved with ibuprofen and tylenol. As her HA resolved 
and she was remote from delivery, she was not given magnesium 
for seizure prohpylaxis. 

On admission to the floor, her blood pressure was well 
controlled with labetolol 300 TID and she remained asymptomatic 
from a preeclampsia standpoint.
 
Medications on Admission:
Colace, ibuprofen
 
Discharge Medications:
1. Docusate Sodium 100 mg PO BID:PRN Constipation 
2. Ibuprofen 600 mg PO Q6H:PRN Pain 
3. Labetalol 300 mg PO TID 
RX *labetalol 300 mg 1 tablet(s) by mouth three times a day Disp 
#*90 Tablet Refills:*2

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
postpartum pre-eclampsia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
please see nursing instruction sheets
 
Followup Instructions:
___